US07883713B2
Methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate
47.6 g (0.21 mol) of methyl 4-bromophenylacetate are introduced under argon into 400 ml of absolute tetrahydrofuran and, at room temperature, 320 ml of 1M sodium carbonate solution and 40 g (0.28 mol) of 2-fluorophenylboronic acid are added. Addition of 7.0 g (0.01 mol) of bis(triphenylphosphane)palladium(II) chloride is followed by heating under reflux for 18 h. Cooling is followed by dilution with 500 ml of water and extracted three times with 300 ml of ethyl acetate each time. The combined organic phases are washed with 400 ml each of saturated ammonium chloride solution, water and saturated sodium chloride solution, dried over magnesium sulfate and freed of solvent in vacuo. Example V is obtained after silica gel filtration (petroleum ether/ethyl acetate 10:1) as a colorless oil.

reactant | methyl 4-bromophenylacetate | 0.21 mol, 47.6 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | sodium carbonate | 1M, 320 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluorophenylboronic acid | 0.28 mol, 40 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | water | 500 ml | O | H2O
product | Methyl (2′-fluoro[1,1′-biphenyl]-4-yl)acetate | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H13FO2
